US07820654B2
Step (ii). Synthesis of 6-chloro-N2-(3-chloro-4-methoxy-phenyl)-N4-cycloheptyl-pyrimidine-2,4-diamine
To a solution of compound (3-chloro-4-methoxy-phenyl)-(4,6-dichloro-pyrimidin-2-yl)-amine (0.08 g, 0.26 mmol) in butanol (3 mL) was added to cycloheptylamine (0.03 g, 0.26 mmol) at 25° C. with stirring. To this was added triethylamine (0.14 mL, 1.04 mmol), and the mixture was stirred for 30 minutes at 25° C. and then heated and refluxed for 12 hours under nitrogen atmosphere. The mixture was concentrated under vacuum, diluted with cold water, and extracted with ethyl acetate. The organic layers were collected, combined, washed with brine, dried over anhydrous sodium sulphate, and concentrated under vacuum to give the desired compound. Yield: 60%.

reactant | (3-chloro-4-methoxy-phenyl)-(4,6-dichloro-pyrimidin-2-yl)-amine | 0.26 mmol, 0.08 g | ClC=1C=C(C=CC1OC)NC1=NC(=CC(=N1)Cl)Cl | C11H8Cl3N3O
reactant | cycloheptylamine | 0.26 mmol, 0.03 g | C1(CCCCCC1)N | C7H15N
reactant | triethylamine | 1.04 mmol, 0.14 mL | C(C)N(CC)CC | C6H15N
solvent | butanol | 3 mL | C(CCC)O | C4H10O
product | 6-chloro-N2-(3-chloro-4-methoxy-phenyl)-N4-cycloheptyl-pyrimidine-2,4-diamine | Yield: 60% | ClC1=CC(=NC(=N1)NC1=CC(=C(C=C1)OC)Cl)NC1CCCCCC1 | C18H22Cl2N4O
